US05627136
2,2-Dimethyl-5-(2-methoxypyridin-5-yl)-4H-(1,3)benzodioxin-4-one
8.7 g of 2,2-dimethyl-5-trifluoromethylsulfonyloxy-4H-(1,3)benzodioxin-4-one, 23.2 g of 2-methoxy-5-tributylstannylpyridine, 3.4 g of lithium chloride, 0.6 g of tetrakistriphenylphosphinepalladium0 and 70 mg of 2,6-di-t-butyl-4-methylphenol are dissolved in 150 ml of dioxane and the mixture is stirred for 3 h at 140° C. in an autoclave. It is then concentrated under reduced pressure, the residue is stirred with 200 ml of n-pentane and filtered on a little silica gel 60, the latter is subsequently washed with n-pentane and the product is eluted using ethyl acetate. After concentration, 10.3 g of m.p. 160° C. remain.

reactant | 2,2-dimethyl-5-trifluoromethylsulfonyloxy-4H-(1,3)benzodioxin-4-one | 8.7 g | CC1(OC(C2=C(O1)C=CC=C2OS(=O)(=O)C(F)(F)F)=O)C | C11H9F3O6S
reactant | 2-methoxy-5-tributylstannylpyridine | 23.2 g | COC1=NC=C(C=C1)[Sn](CCCC)(CCCC)CCCC
reactant | lithium chloride | 3.4 g | [Cl-].[Li+]
reactant | 2,6-di-t-butyl-4-methylphenol | 70 mg | C(C)(C)(C)C1=C(C(=CC(=C1)C)C(C)(C)C)O | C15H24O
solvent | dioxane | 150 ml | O1CCOCC1 | C4H8O2
product | 2,2-Dimethyl-5-(2-methoxypyridin-5-yl)-4H-(1,3)benzodioxin-4-one | CC1(OC(C2=C(O1)C=CC=C2C=2C=CC(=NC2)OC)=O)C | C16H15NO4
